US07842688B2
c) tert-Butyl 3-(2-hydroxyethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
8.54 g of tert-butyl 3-allyloxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate are initially charged in a 3:1 tetrahydrofuran/water mixture (52 ml) with stirring at room temperature and admixed with 2.07 ml of osmium tetroxide (2.5% by wt. in tert-BuOH). Subsequently, 9.00 g of sodium periodate are added in portions. The reaction mixture is stirred further over 2 hours. The reaction mixture is concentrated by evaporation. The residue is suspended in a 1:1 dichloromethane/methanol mixture (150 ml), cooled to 5° C. and admixed with 3.96 g of sodium borohydride in portions. The reaction mixture is stirred at 5° C. for 1.5 hours and subsequently concentrated by evaporation. The residue is stirred in 200 ml of dichloromethane, filtered through glass fibre filter and washed with dichloromethane. The filtrate is washed with a 1:1 brine/water mixture, filtered through cotton wool, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.17 (1:1 EtOAc-heptane). Rt=5.22.

reactant | tert-butyl 3-allyloxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 8.54 g | C(C=C)OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C30H41NO6
reactant | sodium periodate | 9.00 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetroxide | 2.07 ml | [Os](=O)(=O)(=O)=O
solvent | tetrahydrofuran water | 52 ml | O1CCCC1.O
product | tert-Butyl 3-(2-hydroxyethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | OCCOC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C29H41NO7
